US09029544B2
5-((S)—((S)-5-(tert-butyldimethylsilyloxy)-4-(3,6-dihydro-2H-pyran-4-yl)-7,7-dimethyl-2-(tetrahydro-2H-pyran-4-yl)-5,6,7,8-tetrahydroquinolin-3-yl)(hydroxy)methyl)-2-(trifluoromethyl)benzonitrile
Obtained by starting from (S)-5-(tert-butyldimethylsilyloxy)-4-(3,6-dihydro-2H-pyran-4-yl)-7,7-dimethyl-2-(tetrahydro-2H-pyran-4-yl)-5,6,7,8-tetrahydroquinoline-3-carbaldehyde and 5-iodo-2-(trifluoromethyl)benzonitrile. A 1.3 M solution of isopropylmagnesium chloride-lithium chloride-complex in tetrahydrofurane is used instead of a 2 M solution of isopropylmagnesium chloride in tetrahydrofurane.

reactant | (S)-5-(tert-butyldimethylsilyloxy)-4-(3,6-dihydro-2H-pyran-4-yl)-7,7-dimethyl-2-(tetrahydro-2H-pyran-4-yl)-5,6,7,8-tetrahydroquinoline-3-carbaldehyde | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCOCC1)C=O)C=1CCOCC1 | C28H43NO4Si
reactant | 5-iodo-2-(trifluoromethyl)benzonitrile | IC=1C=CC(=C(C#N)C1)C(F)(F)F | C8H3F3IN
reactant | isopropylmagnesium chloride lithium chloride | C(C)(C)[Mg]Cl.[Cl-].[Li+]
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | 5-((S)—((S)-5-(tert-butyldimethylsilyloxy)-4-(3,6-dihydro-2H-pyran-4-yl)-7,7-dimethyl-2-(tetrahydro-2H-pyran-4-yl)-5,6,7,8-tetrahydroquinolin-3-yl)(hydroxy)methyl)-2-(trifluoromethyl)benzonitrile | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCOCC1)[C@H](C=1C=CC(=C(C#N)C1)C(F)(F)F)O)C=1CCOCC1 | C36H47F3N2O4Si
